US08877801B2
To a microwave vial containing 4-bromo-3-methylphenol (600 mg, 3.21 mmol) in anhydrous DMF (3.0 mL) was added ethyl acrylate (996 mg, 9.94 mmol), palladium (II) acetate (72.0 mg, 0.321 mmol), tri(o-tolyl)phosphine (146 mg, 0.481 mmol) and triethylamine (1.57 mL, 11.23 mmol). The resulting mixture was sealed and subjected to microwave irridation at 120° C. for 2 h after which time the reaction was diluted with EtOAc and filtered through Celite™. The filtrate was then washed with water, brine and dried over anhydrous Na2SO4, filtered and concentrated in vacuo to give the crude product as a brown oil which was purified by column chromatography (SiO2, 0-30% EtOAc/Heptane) to afford (E)-ethyl 3-(4-hydroxy-2-methylphenyl)acrylate (289.8 mg, 1.405 mmol, 44% yield). LC/MS (m/z, MH+): 207.2.

reactant | 4-bromo-3-methylphenol | 3.21 mmol, 600 mg | BrC1=C(C=C(C=C1)O)C | C7H7BrO
reactant | ethyl acrylate | 9.94 mmol, 996 mg | C(C=C)(=O)OCC | C5H8O2
reactant | tri(o-tolyl)phosphine | 0.481 mmol, 146 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | triethylamine | 11.23 mmol, 1.57 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 3.0 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | palladium (II) acetate | 0.321 mmol, 72.0 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (E)-ethyl 3-(4-hydroxy-2-methylphenyl)acrylate | 1.405 mmol, 289.8 mg, 44% yield | OC1=CC(=C(C=C1)/C=C/C(=O)OCC)C | C12H14O3
